US05532236
f. 3-(2-Ethoxycarbonylhydrazino)-1-hydroxy-6-(2-methyl-1H-imidazol-1-yl)-7-trifluoromethylquinoxalin-2(1H)-one
A solution of 1.4 g (~2.8 mmol) 1-benzyloxy-3-(2-ethoxycarbonylhydrazino)-6-(2-methyl-1H-imidazol-1-yl)-7-trifluoromethylquinoxalin-2(1H)-one in a mixture of 100 ml ethanol and 50 ml N,N-dimethylformamide was hydrogenated at atmospheric pressure by using 0.15 g 5% Pd-C as a catalyst. The catalyst was removed by filtration, and the filtrate was evaporated in vacuo to give the title compound as a crude product (1 g).

reactant | 1-benzyloxy-3-(2-ethoxycarbonylhydrazino)-6-(2-methyl-1H-imidazol-1-yl)-7-trifluoromethylquinoxalin-2(1H)-one | ~2.8 mmol, 1.4 g | C(C1=CC=CC=C1)ON1C(C(=NC2=CC(=C(C=C12)C(F)(F)F)N1C(=NC=C1)C)NNC(=O)OCC)=O | C23H21F3N6O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | Pd-C | 0.15 g | [Pd] | Pd
product | 3-(2-Ethoxycarbonylhydrazino)-1-hydroxy-6-(2-methyl-1H-imidazol-1-yl)-7-trifluoromethylquinoxalin-2(1H)-one | C(C)OC(=O)NNC=1C(N(C2=CC(=C(C=C2N1)N1C(=NC=C1)C)C(F)(F)F)O)=O | C16H15F3N6O4
